US07524813B2
At 0° C., 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (451 mg, 2.35 mmol) was added to a solution of mono-tert-butyl succinate (410 mg, 2.35 mmol) and 3,4-dihydro-3-hydroxy-4-oxo-1,2,3-benzotriazin (384 mg, 2.35 mmol) in a mixture of N,N-dimethylformamide (5 ml) and dichloromethane (5 ml). The reaction mixture was stirred for 25 min at 0° C. A solution of crude (3-(aminomethyl)phenyl)methanol (340 mg, 2.48 mmol) in N,N-dimethylformamide (5 ml) and ethyldiisopropylamine(0.40 ml, 2.48 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was slowly warming up to room temperature. It was diluted with ethyl acetate (150 ml) and washed with a 10% aqueous solution of sodium hydrogensulphate (100 ml). The aqueous phase was extracted with ethyl acetate (50 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (150 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatograpy on silica (60 g), using a mixture of ethyl acetate and heptane (2:1) as eluent to give 372 mg of N-(3-(hydroxymethyl)benzyl)succinamic acid tert-butyl ester.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.35 mmol, 451 mg | Cl.CN(CCCN=C=NCC)C
reactant | mono-tert-butyl succinate | 2.35 mmol, 410 mg | C(CCC(=O)[O-])(=O)OC(C)(C)C
reactant | 3,4-dihydro-3-hydroxy-4-oxo-1,2,3-benzotriazin | 2.35 mmol, 384 mg | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | (3-(aminomethyl)phenyl)methanol | 2.48 mmol, 340 mg | NCC=1C=C(C=CC1)CO | C8H11NO
reactant | ethyldiisopropylamine | 2.48 mmol, 0.40 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-(hydroxymethyl)benzyl)succinamic acid tert-butyl ester | 372 mg | C(C)(C)(C)OC(CCC(=O)NCC1=CC(=CC=C1)CO)=O | C16H23NO4
